US07342117B2
20.0 g of (R)-2-(2-aminothiazol-4-yl)-4′-[2-[(2-hydroxy-2-phenylethyl)amino]ethyl]acetanilide was dissolved in 1,4-dioxane, to which was then added 8.41 mL of concentrated hydrochloric acid. A generated crystal was collected by filtration to obtain 25.0 g of (R)-2-(2-aminothiazol-4-yl)-4′-[2-[(2-hydroxy-2-phenylethyl)amino]ethyl]-acetanilide dihydrochloride.

reactant | (R)-2-(2-aminothiazol-4-yl)-4′-[2-[(2-hydroxy-2-phenylethyl)amino]ethyl]acetanilide | 20.0 g | NC=1SC=C(N1)CC(=O)NC1=CC=C(C=C1)CCNC[C@@H](C1=CC=CC=C1)O | C21H24N4O2S
reactant | hydrochloric acid | 8.41 mL | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | (R)-2-(2-aminothiazol-4-yl)-4′-[2-[(2-hydroxy-2-phenylethyl)amino]ethyl]-acetanilide dihydrochloride | 25.0 g | Cl.Cl.NC=1SC=C(N1)CC(=O)NC1=CC=C(C=C1)CCNC[C@@H](C1=CC=CC=C1)O | InChI=1S/C21H24N4O2S.2ClH/c22-21-25-18(14-28-21)12-20(27)24-17-8-6-15(7-9-17)10-11-23-13-19(26)16-4-2-1-3-5-16;;/h1-9,14,19,23,26H,10-13H2,(H2,22,25)(H,24,27);2*1H/t19-;;/m0../s1
